US06586630B1
(1) 3-tert-Butyl-4-fluorotoluene
To a solution of aluminum chloride (8.1 g, 60.7 mmol) in carbon disulfide (60 ml), 4-fluorotoluene (6.0 g, 54.5 mmol) was added and then under cooling with ice, tert-butyl chloride (6.0 ml, 54.5 mmol) was added, followed by stirring for 10 min. The reaction mixture was poured into ice water and extracted with methylene chloride. The organic layer was washed with saturated brine, dried over sodium sulfate and evaporated under reduced pressure to remove the solvent. The thus obtained residue was subjected to silica gel column chromatography (developing solvent: n-hexane) to give the titled compound (5.92 g, 63%).

reactant | aluminum chloride | 60.7 mmol, 8.1 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-fluorotoluene | 54.5 mmol, 6.0 g | FC1=CC=C(C=C1)C | C7H7F
reactant | tert-butyl chloride | 54.5 mmol, 6.0 ml | C(C)(C)(C)Cl | C4H9Cl
solvent | carbon disulfide | 60 ml | C(=S)=S | CS2
product | 3-tert-Butyl-4-fluorotoluene | 5.92 g, 63% | C(C)(C)(C)C=1C=C(C=CC1F)C | C11H15F
